US08003749B2
A 1 L reactor was charged under nitrogen with 100.0 g (0.94 mol) of m-xylene and 6.3 g (0.047 mol/0.05 eq) of aluminum chloride, followed by adjusting the inside temperature to 10° C. Then, 164.2 g (0.99 mol/1.05 eq) of hexafluoroacetone was introduced in a temperature range of 10-25° C. After the introduction, stirring was conducted at room temperature for 1 hr. Then, 100 mL of 10% hydrochloric acid was added. The resulting aqueous layer was extracted two times with 40 mL of chloroform. The resulting organic layers were combined together, followed by removing water with anhydrous magnesium sulfate, filtration, concentration, and vacuum distillation, thereby obtaining 227.6 g of 4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1,3-dimethylbenzene represented by the following formula. Upon this, purity was 95%, and yield was 84%.

reactant | m-xylene | 0.94 mol, 100.0 g | C1(=CC(=CC=C1)C)C | C8H10
reactant | hexafluoroacetone | 0.99 mol, 164.2 g, 1.05 eq | FC(C(=O)C(F)(F)F)(F)F | C3F6O
catalyst | aluminum chloride | 0.047 mol, 6.3 g, 0.05 eq | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | hydrochloric acid | 100 mL | Cl | ClH
product | 4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1,3-dimethylbenzene | 227.6 g, yield was 84% | FC(C(C(F)(F)F)(O)C1=C(C=C(C=C1)C)C)(F)F | C11H10F6O
